### PR TITLE
[Merged by Bors] - feat(Analysis): `tendsto_zpow_nhdsNE_zero_cobounded`

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Ring/Lemmas.lean [hunk 1]
```diff
@@ -75,6 +75,12 @@ lemma RingHomIsometric.inv {𝕜₁ 𝕜₂ : Type*} [SeminormedRing 𝕜₁] [S
     RingHomIsometric σ' :=
   ⟨fun {x} ↦ by rw [← RingHomIsometric.norm_map (σ := σ), RingHomInvPair.comp_apply_eq₂]⟩
 
+lemma SeminormedRing.tendsto_pow_cobounded_cobounded
+    [NormOneClass α] [NormMulClass α] {m : ℕ} (hm : m ≠ 0) :
+    Tendsto (· ^ m) (Bornology.cobounded α) (Bornology.cobounded α) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Ring/Lemmas.lean]: I think the namespace is unnecessary (although I also think this for the `NormedField` ones above). Can you also prove `tendsto_mul_cobounded_cobounded` (domain is the product space) and `tendsto_cobounded.mul` (takes two functions which tends to cobounded along some filter and shows the pointwise product does too).

File: Mathlib/Analysis/Normed/Field/Lemmas.lean [hunk 2]
```diff
@@ -121,16 +126,18 @@ instance (priority := 100) NormedDivisionRing.to_isTopologicalDivisionRing :
     IsTopologicalDivisionRing α where
 
 lemma NormedField.tendsto_norm_inv_nhdsNE_zero_atTop : Tendsto (fun x : α ↦ ‖x⁻¹‖) (𝓝[≠] 0) atTop :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Field/Lemmas.lean]: I would omit the namespace and deprecate.

File: Mathlib/Analysis/Normed/Field/Lemmas.lean [hunk 3]
```diff
@@ -121,16 +126,18 @@ instance (priority := 100) NormedDivisionRing.to_isTopologicalDivisionRing :
...
-  (tendsto_inv_nhdsGT_zero.comp tendsto_norm_nhdsNE_zero).congr fun x ↦ (norm_inv x).symm
+  tendsto_norm_cobounded_atTop.comp tendsto_inv₀_nhdsNE_zero
 
-lemma NormedField.tendsto_norm_zpow_nhdsNE_zero_atTop {m : ℤ} (hm : m < 0) :
-    Tendsto (fun x : α ↦ ‖x ^ m‖) (𝓝[≠] 0) atTop := by
+lemma NormedField.tendsto_zpow_nhdsNE_zero_atTop {m : ℤ} (hm : m < 0) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Field/Lemmas.lean]: I would omit the namespace.

File: Mathlib/Analysis/Normed/Field/Lemmas.lean [hunk 4]
```diff
@@ -121,16 +126,18 @@ instance (priority := 100) NormedDivisionRing.to_isTopologicalDivisionRing :
...
-  rw [Int.natCast_pos] at hm
-  simp only [norm_pow, zpow_neg, zpow_natCast, ← inv_pow]
-  exact (tendsto_pow_atTop hm.ne').comp NormedField.tendsto_norm_inv_nhdsNE_zero_atTop
+  lift m to ℕ using by cutsat
+  simpa [Function.comp_def] using (SeminormedRing.tendsto_pow_cobounded_cobounded
+    (by cutsat)).comp tendsto_inv₀_nhdsNE_zero
+
+lemma NormedField.tendsto_norm_zpow_nhdsNE_zero_atTop {m : ℤ} (hm : m < 0) :
+    Tendsto (fun x : α ↦ ‖x ^ m‖) (𝓝[≠] 0) atTop :=
+  tendsto_norm_cobounded_atTop.comp (tendsto_zpow_nhdsNE_zero_atTop hm)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Field/Lemmas.lean]: I would just delete this entirely and deprecate it. I suggest leaving the `norm_inv` one above just for convenience because it comes up more often. But in general I think we should standardize on `cobounded`

File: Mathlib/Analysis/Normed/Ring/Lemmas.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/Analysis/Normed/Ring/Lemmas.lean]: I am not entirely sure what you meant by `tendsto_mul_cobounded_cobounded`. My interpretation was `Tendsto (Function.uncurry (· * ·)) (cobounded (α × α)) (cobounded α)` but this is false because `{(x, y) | x * y <= 1}` is not bounded.

**Comment by j-loreaux** [comment]
bors d+

File: Mathlib/Analysis/Normed/Field/Lemmas.lean [hunk 5]
```diff
@@ -120,17 +125,23 @@ instance (priority := 100) NormedDivisionRing.to_continuousInv₀ : ContinuousIn
...
-  (tendsto_inv_nhdsGT_zero.comp tendsto_norm_nhdsNE_zero).congr fun x ↦ (norm_inv x).symm
+lemma tendsto_norm_inv_nhdsNE_zero_atTop : Tendsto (fun x : α ↦ ‖x⁻¹‖) (𝓝[≠] 0) atTop :=
+  tendsto_norm_cobounded_atTop.comp tendsto_inv₀_nhdsNE_zero
 
-lemma NormedField.tendsto_norm_zpow_nhdsNE_zero_atTop {m : ℤ} (hm : m < 0) :
-    Tendsto (fun x : α ↦ ‖x ^ m‖) (𝓝[≠] 0) atTop := by
+@[deprecated (since := "2025-11-26")]
+alias NormedField.tendsto_norm_inv_nhdsNE_zero_atTop := tendsto_norm_inv_nhdsNE_zero_atTop
+
+lemma tendsto_zpow_nhdsNE_zero_atTop {m : ℤ} (hm : m < 0) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Field/Lemmas.lean]: oops, I missed this one.
```suggestion
lemma tendsto_zpow_nhdsNE_zero_cobounded {m : ℤ} (hm : m < 0) :
```
